US07638515B2
Ethyl-4-(2-methoxy-3-methylphenyl)-4-methyl-2-oxopentanoate
71.37 g (395.96 mmol) of 2-(2-methoxy-3-methylphenyl)-propan-2-ol and 149 g (791.92 mmol) of 2-trimethylsilanyloxyacrylic acid ethyl ester are introduced into 1.1 l of dichloromethane. At −78° C., 44.8 ml (379.91 mmol) of tin tetrachloride is added in drops, and the batch is then stirred for three hours at this low temperature. 1.4 1 of semiconcentrated potassium carbonate solution is carefully added in drops, and the reaction mixture is thus brought to room temperature. The batch is filtered, and the filtrate is extracted three times with ethyl acetate. The combined organic extracts are washed with brine, dried on sodium sulfate, and the solvent is spun off. The residue is chromatographed several times on silica gel (mobile solvent ethyl acetate/hexane). 45.81 g (41.6%) of the desired compound is isolated.

reactant | 2-(2-methoxy-3-methylphenyl)-propan-2-ol | 395.96 mmol, 71.37 g | COC1=C(C=CC=C1C)C(C)(C)O | C11H16O2
reactant | 2-trimethylsilanyloxyacrylic acid ethyl ester | 791.92 mmol, 149 g | C(C)OC(C(=C)O[Si](C)(C)C)=O | C8H16O3Si
reactant | tin tetrachloride | 379.91 mmol, 44.8 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 1.1 l | ClCCl | CH2Cl2
product | Ethyl-4-(2-methoxy-3-methylphenyl)-4-methyl-2-oxopentanoate | 45.81 g, 41.6% | C(C)OC(C(CC(C)(C)C1=C(C(=CC=C1)C)OC)=O)=O | C16H22O4
